US07612075B2
A. (3-{3-[4-(4-Amino-quinazolin-7-ylmethyl)-3-oxo-piperazin-1-yl]-prop-1-ynyl}-pyridin-4-yl-carbamic acid tert-butyl ester.
A solution containing 1-(4-amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one (100 mg, 0.34 mmol), EXAMPLE 283, (3-iodo-pyridin-4-yl)-carbamic acid tert-butyl ester, EXAMPLE 69, Part B, (108 mg, 0.34 mmol), Et3N (140 mg, 1.36 mmol), (Ph3P)4PdCl2 (12 mg, 0.017 mmol), and CuI (2 mg, 0.01 mmol) in anhydrous DMF (5 mL) is stirred at ambient temperature. After 5 h, the reaction mixture is diluted with EtOAc (50 mL) and water (50 mL) and the layers are separated. The aqueous layer is extracted twice with EtOAc (25 mL) and the combined organic phase is washed with brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude residue is purified by flash silica gel chromatography (CH2Cl2 to 10% MeOH CH2Cl2) to provide 59 mg (36%) of the title compound as a colorless oil. 1H NMR (300 MHz, CDCl3) δ1.49 (s, 9H), 2.84 (m, 2H), 3.35 (m, 2H), 3.44 (s, 2H), 3.71 (s, 2H), 4.75 (s, 2H), 6.19 (br s, 2H), 7.24 (d, J=5.5 Hz, 1H), 7.41 (d, J=8.4 Hz, 1H), 7.66 (s, 1H), 7.79 (d, J=8.4 Hz, 1H), 8.05 (d, J=5.5 Hz, 1H), 8.37 (s, 1H), 8.49 (s, 1H), 8.58 (s, 1H) ppm; MS (ISP loop): m/z 488 (M+H).

reactant | 1-(4-amino-quinazolin-7-ylmethyl)-4-prop-2-ynyl-piperazin-2-one | 0.34 mmol, 100 mg | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1)CC#C)=O | C16H17N5O
reactant | (3-iodo-pyridin-4-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
reactant | Et3N | 0.34 mmol, 108 mg | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | CuI | 0.01 mmol, 2 mg | [Cu]I
product | 3-{3-[4-(4-Amino-quinazolin-7-ylmethyl)-3-oxo-piperazin-1-yl]-prop-1-ynyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 59 mg, 36% | C(C)(C)(C)OC(NC1=C(C=NC=C1)C#CCN1CC(N(CC1)CC1=CC=C2C(=NC=NC2=C1)N)=O)=O | C26H29N7O3
